US07745630B2
Preparation 35: Ethyl 1-{[(4-chlorophenyl)amino]carbonothioyl}piperidine-4-carboxylate
A mixture of 4-chlorophenyl isothiocyanate (3.5 g, 20.7 mmol), and ethyl isonipecotate (3.19 mL, 20.7 mmol) in dichloromethane (30 mL) was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure, the residue was triturated with ether and the resulting solid was filtered off and dried to afford the title compound as a white solid, 6.27 g.

reactant | 4-chlorophenyl isothiocyanate | 20.7 mmol, 3.5 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | ethyl isonipecotate | 20.7 mmol, 3.19 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Ethyl 1-{[(4-chlorophenyl)amino]carbonothioyl}piperidine-4-carboxylate | ClC1=CC=C(C=C1)NC(=S)N1CCC(CC1)C(=O)OCC | C15H19ClN2O2S
